* /Users/tatyanagubin/winterg/2016-design-project/subcircuits/3_DAC_winterg.asc
Iref VDD N010 1µA
XM8 N010 N010 0 N011 NFET lg=1.5u,wg=10u
XM0 N002 N010 0 0 NFET lg=1.5u,wg=10u
XM1 N003 N010 0 0 NFET lg=1.5u,wg=10u
XM2 N004 N010 0 0 NFET lg=1.5u,wg=10u
XM3 N005 N010 0 0 NFET lg=1.5u,wg=10u
XM4 N006 N010 0 0 NFET lg=1.5u,wg=10u
XM5 N007 N010 0 0 NFET lg=1.5u,wg=10u
XM6 N008 N010 0 0 NFET lg=1.5u,wg=10u
XM7 N009 N010 0 0 NFET lg=1.5u,wg=10u
XM9 Vout S0 N002 0 NFET lg=1.5u,wg=10u
XM10 Vout S1 N003 0 NFET lg=1.5u,wg=10u
XM11 Vout S2 N004 0 NFET lg=1.5u,wg=10u
XM12 Vout S3 N005 0 NFET lg=1.5u,wg=10u
XM13 Vout S4 N006 0 NFET lg=1.5u,wg=10u
XM14 Vout S5 N007 0 NFET lg=1.5u,wg=10u
XM15 Vout S6 N008 0 NFET lg=1.5u,wg=10u
XM16 Vout S7 N009 0 NFET lg=1.5u,wg=10u
XM17 N001 Vout Vout N001 PFET lg=1.5u,wg=10u
XM18 VDD 0 N001 0 PFET lg=1.5u,wg=10u
.inc mosfets.sub
.tran 0ns 10ns
* Current Mirror
* DAC
.backanno
.end
